US07439249B2
Step H: 2-[2-(Benzenesulfonylamino-methyl)-1H-indol-6-yloxy]-malonic acid diethyl ester
2-(2-Aminomethyl-1H-indol-6-yloxy)-malonic acid diethyl ester (80 mg, 0.2 5 mmol) is dissolved in DCM (2 ml). DIEA (87 □l, 0.50 mmol) is added. To the solution, benzenesulfonyl chloride (44 mg, 0.25 mmol) is added. The reaction is stirred at room temperature for two hours. The reaction mixture is concentrated and the residue is purified by chromatography (30% ethyl acetate in hexanes) to give the title compound.

reactant | 2-(2-Aminomethyl-1H-indol-6-yloxy)-malonic acid diethyl ester | 5 mmol, 80 mg | C(C)OC(C(C(=O)OCC)OC1=CC=C2C=C(NC2=C1)CN)=O | C16H20N2O5
reactant | DIEA | 0.50 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | benzenesulfonyl chloride | 0.25 mmol, 44 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | 2-[2-(Benzenesulfonylamino-methyl)-1H-indol-6-yloxy]-malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)OC1=CC=C2C=C(NC2=C1)CNS(=O)(=O)C1=CC=CC=C1)=O | C22H24N2O7S
